US07399759B2
tert-Butyl 2-(4-pyridyl)ethylcarbamate
4-(2-Aminoethyl)pyridine (4.4 g, 36 mmol) and di-tert-butyl dicarbonate (8.8 g, 40 mmol) were dissolved in tetrahydrofuran (60 ml), and the mixture was stirred at 0° C. for 30 minutes and at room temperature for 3 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fraction eluted with ethyl acetate were collected and concentrated to give the titled compound (6.9 g, 81%).

reactant | 4-(2-Aminoethyl)pyridine | 36 mmol, 4.4 g | NCCC1=CC=NC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 40 mmol, 8.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | tert-Butyl 2-(4-pyridyl)ethylcarbamate | 6.9 g, 81% | N1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C12H18N2O2
